US05597826
7-(3-Methylaminosulfonylphenyl)-1-(4-methyl-1-piperazinyl)naphthalene
7-Trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene (0.25 g, 0.67 mmol), 3-methylaminosulfonyl-1-bromobenzene (0.18 g, 0.72 mmol), triethylamine (0.45 mL, 3.23 mmol), lithium chloride (0.088 g, 2.07 mmol), and bis (triphenylphosphine) palladium chloride (0.025 g, 0.036 mmol) were combined in DMF (12.5 mL) and heated to 110° to 110° C. for 45 minutes. The reaction was cooled to room temperature and 1 N aqueous lithium chloride (20 mL) was added. The mixture was extracted with ether (2x). The combined organic layer was washed with 1N lithium chloride and brine; then it was dried over magnesium sulfate and concentrated to an orange oil. Flash chromatography on silica gel (1×6 inches) with an ethyl acetate/hexane gradient of from 50 to 75% followed by continued elution with ethyl acetate and finally 5% methanol/ethyl acetate 0.11 g (42%) of the title product. The sample was recrystallized from ethyl acetate for analysis: mp 147.5°-148° C. Analysis calculated for C22H25N3O2S: C, 66.81; H, 6.31; N, 10.62. Found: C, 66.32; H, 6.16; N, 10.41.

reactant | 7-Trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene | 0.67 mmol, 0.25 g | C[Sn](C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C)(C)C
reactant | 3-methylaminosulfonyl-1-bromobenzene | 0.72 mmol, 0.18 g | CNS(=O)(=O)C=1C=C(C=CC1)Br | C7H8BrNO2S
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | lithium chloride | 2.07 mmol, 0.088 g | [Cl-].[Li+]
reactant | lithium chloride | 1 N, 20 mL | [Cl-].[Li+]
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
catalyst | bis (triphenylphosphine) palladium chloride | 0.036 mmol, 0.025 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-(3-Methylaminosulfonylphenyl)-1-(4-methyl-1-piperazinyl)naphthalene | CNS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C22H25N3O2S
